US04822908
Methyl α-(2-(2,6-dimethyloctanyloxy)phenyl)-β-methoxyacrylate (Compound 2)
3.2 g of methyl α-(2-(2,6-dimethylocta-2,6-dienyloxy)phenyl)-β-methoxyacrylate are dissolved in 70 ml of methanol, and 0.2 g of palladium on active carbon is added. At room temperature, hydrogen is passed with stirring through the suspension until no further gas is absorbed. The solution is separated from the catalyst and evaporated. This give 3.1 g of an oil.

reactant | methyl α-(2-(2,6-dimethylocta-2,6-dienyloxy)phenyl)-β-methoxyacrylate | 3.2 g | CC(COC1=C(C=CC=C1)C(C(=O)OC)=COC)=CCCC(=CC)C | C21H28O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 ml | CO | CH4O
catalyst | palladium | 0.2 g | [Pd] | Pd
product | Methyl α-(2-(2,6-dimethyloctanyloxy)phenyl)-β-methoxyacrylate | CC(COC1=C(C=CC=C1)C(C(=O)OC)=COC)CCCC(CC)C | C21H32O4
